US03974286
3-amino-4-methyl-2-propionyliminobenzothiazoline
A 3.6 g. portion of 3-amino-2-imino-4-methylbenzothiazoline was dissolved in about 100 ml. of tetrahydrofuran, and 2.2 g. of triethylamine was added. The reaction mixture was cooled in an ice bath, and 2 g. of propionyl chloride, dissolved in 2 ml. of tetrahydrofuran, was added dropwise while the mixture was stirred. After the addition was complete, the reaction mixture was stirred at ice bath temperature for about 3 hours, and was then diluted with an equal volume of water. The tetrahydrofuran was removed under vacuum, and the remaining aqueous mixture was filtered to recover the product. After recrystallization from ethanol, the yield of purified product was 3.2 g. of 3-amino-4-methyl-2-propionyliminobenzothiazoline, m.p. 175°-76°C. The product was identified by nuclear magnetic resonance and ultraviolet analysis and by elemental microanalysis.

reactant | 3-amino-2-imino-4-methylbenzothiazoline | NN1C(SC2=C1C(=CC=C2)C)=N | C8H9N3S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
solvent | water | O | H2O
product | 3-amino-4-methyl-2-propionyliminobenzothiazoline | NN1C(SC2=C1C(=CC=C2)C)=NC(CC)=O | C11H13N3OS
